US04592866
2,3-Dihydro-4-methyl-2-[2-(methylphenylamino)ethyl]pyrido[3,2-f][1,4]oxazepin-5(4H)-one
2-(2-Chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f][1,4]oxazepin-5(4H)-one hydrochloride, 4.00 g (0.015 mole) was dissolved in N-methylaniline (30 ml) and heated to 95° C. with stirring for 2 days. Excess N-methylaniline was removed by rotary evaporation (95° C., vacuum pump). The residue was taken up in chloroform (80 ml) and washed with dilute aqueous sodium hydroxide (30 ml) The chloroform layer was decolorized with activated carbon and dried over sodium sulfate, filtered and concentrated by rotary evaporation. The remaining residue was dissolved in ethyl acetate (50 ml) and purified by high pressure liquid chromatography using a silica gel column and ethyl acetate as the eluent. After purification, crystals formed from ethyl acetate. These crystals were recrystallized from ethyl acetate, giving 1.40 g (31%) of pale brown crystals.

reactant | 2-(2-Chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f][1,4]oxazepin-5(4H)-one hydrochloride | Cl.ClCCC1OC2=C(C(N(C1)C)=O)C=CC=N2
reactant | N-methylaniline | 30 ml | CNC1=CC=CC=C1 | C7H9N
product | 2,3-Dihydro-4-methyl-2-[2-(methylphenylamino)ethyl]pyrido[3,2-f][1,4]oxazepin-5(4H)-one | 1.40 g, 31% | CN1CC(OC2=C(C1=O)C=CC=N2)CCN(C2=CC=CC=C2)C | C18H21N3O2
